US05872137
A reaction vessel was charged with 10.6 g of 1,3-dibromopropane, 5.53 g of potassium carbonate and 100 ml of N,N-dimethylformamide, to which a solution of 30.5 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol dissolved in 40 ml of N,N-dimethylformamide was slowly added dropwise. After stirring at room temperature for 24 hours, the reaction mixture was poured into water, and extracted twice with 150 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 11.1 g of 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (77% yield), nD24.0 1.5693.

reactant | 1,3-dibromopropane | 10.6 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 30.5 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 11.1 g, 77% yield | ClC=1C=C(C=C(C1OCCCBr)Cl)OCC=C(Cl)Cl | C12H11BrCl4O2
